US06387900B1
N-(3-cyclopropyl-1H-pyrazol-5-yl)-N′-(2,4-dichlorobenzyl)urea
1 g (8.13 mmol) of 3-cyclopropyl-5-amino-1H-pyrazole are dissolved in 10 ml of ethanol containing 1.37 g (16.26 mmol) of sodium hydrogen carbonate and 3.27 g (16.26 mmol) of 2,4-dichlorobenzyl isocyanate. After 3 hours at room temperature 50 ml of water were added and the solid was filtered. The filtrate was evaporated to dryness and then redissolved with 10 ml of methanol. 8.2 ml of 1M sodium hydrate were added and the mixture stirred 4 h at room temperature. Methanol is evaporated and the residue is dissolved with dichloromethane and washed with water. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo to afford 1.5 g (60% yield) of the title compound.

reactant | 3-cyclopropyl-5-amino-1H-pyrazole | 8.13 mmol, 1 g | C1(CC1)C1=NNC(=C1)N | C6H9N3
reactant | ethanol | 16.26 mmol, 10 ml, 1.37 g | C(C)O | C2H6O
reactant | 2,4-dichlorobenzyl isocyanate | 16.26 mmol, 3.27 g | ClC1=C(CN=C=O)C=CC(=C1)Cl | C8H5Cl2NO
reactant | water | 50 ml | O | H2O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-(3-cyclopropyl-1H-pyrazol-5-yl)-N′-(2,4-dichlorobenzyl)urea | 1.5 g, 60% yield | C1(CC1)C1=NNC(=C1)NC(=O)NCC1=C(C=C(C=C1)Cl)Cl | C14H14Cl2N4O
